US08445509B2
Production of 6-ethyl-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid
A solution of 6-ethyl-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carbonitrile (410 mg, 1.69 mmol) in conc. sulfuric acid (2 mL)/water (2 mL) was stirred at 120° C. for 17 hr. The reaction solution was allowed to cool to room temperature, 6N aqueous sodium hydroxide solution was added, and the aqueous layer was washed with ethyl acetate. 1N Hydrochloric acid was added to the aqueous layer, and the precipitate was collected by filtration and washed with water to give the title compound (345 mg, 78%) as a white solid.

reactant | 6-ethyl-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carbonitrile | 1.69 mmol, 410 mg | C(C)C1=CC=C(C(N1C1=CC=C(C=C1)F)=O)C#N | C14H11FN2O
reactant | water | 2 mL | O | H2O
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
product | 6-ethyl-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 345 mg, 78% | C(C)C1=CC=C(C(N1C1=CC=C(C=C1)F)=O)C(=O)O | C14H12FNO3
